Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"Please get me out of here man"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ college student BIBEMS last night 
after
he and a friend smoked marijuana and he became acutely anxious,
tremulous, and somatically focused; several hours later when his
physical symptoms had subsided, he reported suicidal thoughts,
prompting psychiatry consult where he endorsed years of 
untreated
depressive symptoms that has worsened in the last several months
in the context of academic pressures with an attempted jump from
a balcony.

Per Dr. ___ Consult note on 
___:

"On interview, the patient initially asks if he is in trouble,
and begins to worry about how his parents will react in ___
when they hear what has happened. He then asks if his friend was
here, reporting that he knows she was here even though staff 
have
said no one was here. 

When then asked what brought him to the ___, he reports that he
remembers that he couldn't stand and that his muscles kept
shaking, and that his stomach felt like it was going to burst or
like something had burst, so his friend called the ambulance. He
states that he thought he was dying. He notes that he had been
smoking marijuana, which he states that he does about once-twice
per week. He denies any other substance use except for tobacco.

He states "I'm done with everything in my life. I can't live 
with
this pain." When asked if he means he wants to die, he says yes.
He says "the only thing stopping me is that I don't want to hurt
people, but I don't want to live. I'm tired. I've known for some
time now." He expresses guilt, that he has ruined his own life
and his brother's life by being a bad example for him. He 
reports
that he hates himself, saying "I can't stand myself" and that he
is "not mentally fine." He states that he has "become everything
I hate," and that he cannot understand how he got here. 

He endorses depressed mood, anhedonia, constant fatigue, poor
concentration and motivation, hopelessness, guilt, and
self-hatred. He notes poor appetite and poor sleep, reporting
that he has trouble falling asleep and also wakes up multiple
times most nights and cannot return to sleep due to ruminative
thoughts. He notes that he is on academic probation at ___ and
that he doesn't know how he "let things get so bad". He reports
that he thinks he has been self-medicating his depression with
marijuana, and hates himself for it. He notes that he saw a
psychiatrist once previously in ___ as a teenager for
depression and was offered a prescription for an SSRI, but that
his parents did not want him to take any psychiatric medications
so he did not. 

He also spontaneously reports that he has tried to kill himself
before by jumping off a balcony a few months ago. He states that
he was stopped by a friend and never received professional
attention. 

In the ___, the patient was in good behavioral control and did 
not
require any chemical or physical restraints. 
Received a one-time dose of hydroxyzine 25 mg for anxiety and
also received 1 L of normal saline for tachycardia that resolved
in the emergency department.

On interview in the unit ___ endorses much of the above HPI.
States the reason of him presenting to the ___ was because he
smoked a joint and became anxious. Says he smokes to "take the
edge off of my anxiety...but it just keeps it to the side and
sometimes it makes it worse." After smoking, he became anxious
and had a feeling that his heart was beating faster than usual.
Also states that he had dry mouth and was drinking more water
than usual during this time. Has had 3 prior similar adverse
reactions to cannabis, one of which resulted in the
above-mentioned jump off a balcony. On interview today, he 
denies
that this was a suicide attempt, that it was because he was
feeling anxious and that he wanted to "get away from the feeling
in my head." Currently denies feeling anxious, states he feels
much better and would like to get discharged as soon as 
possible,
though states he is amenable to counseling services. Denies any
SI/HI/AVH at time of evaluation. 

 
Past Medical History:
Reports that he "broke my back" ___ years ago, and does not
believe it healed properly
Reports trouble breathing at night, has not had this worked up 
by
a physician 
 
___:
___
Family History:
 Psychiatric illness: Reports that his paternal grandmother had 
a
severe depression and was institutionalized through much of his
father's childhood. Reports that Maternal Grandfather has
___. 
 Suicide: Denies knowledge of family history of suicide. 
 
Physical Exam:
EXAM:
General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent.
 
Pertinent Results:
___ 05:40PM BLOOD WBC-10.2* RBC-4.99 Hgb-13.3* Hct-40.0 
MCV-80* MCH-26.7 MCHC-33.3 RDW-12.7 RDWSD-36.1 Plt ___
___ 06:15AM BLOOD ALT-10 AST-13 AlkPhos-53 TotBili-0.5
___ 06:15AM BLOOD Triglyc-76 HDL-51 CHOL/HD-3.0 LDLcalc-88
___ 05:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 06:15AM BLOOD TSH-2.9
___ 06:50PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. He was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted. There were 
no behavioral concerns that required restraint or seclusion. 

2. PSYCHIATRIC:
Patient was admitted after he and a friend smoked marijuana and 
he became acutely anxious, tremulous, and somatically focused; 
several hours later when his
physical symptoms had subsided, he reported suicidal thoughts 
and endorsed years of untreated depressive symptoms that has 
worsened in the last several months. During hospitalization, he 
reported chronic anxiety in the context of marijuana and
alcohol use. Additionally, patient described history concerning 
of ADHD including poor focus since childhood, getting easily 
distracted, and being inattentive. He was started on zoloft 25 
mg daily, which he tolerated well. During hospitalization, the 
patient was pleasant and cooperative with no behavioral 
concerns. He consistently denied SI. At discharge, patient was 
future oriented, and reported that after speaking with his 
advisor from school, he planned to withdrawal from his summer 
class and return home to ___ for the summer. He was scheduled 
with follow up appointments with ___ and ___ 
___ Recommend that patient obtain neuropsychological 
testing as an outpatient. He stated that when he returns to 
___, his parents will assist him with seeing a psychiatrist 
and continuing his medications. 

3. SUBSTANCE USE DISORDERS:
#) Cannabis use disorder
Patient reported using marijuana twice per week, including the 
morning of presentation to the ___. He had good insight into the 
effect of marijuana on his mood and behaviors.  He was counseled 
on the risks of continued marijuana use. He reported that he 
plan to abstain from further marijuana use at discharge. 

# Nicotine use disorder
Patient reported smoking 1 PPD. He was given a nicotine patch 
during hospitalization and was give a prescription for a 
nicotine patch at discharge. 

4. MEDICAL
There were no acute medical issues during hospitalization

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient intermittently attended these groups that focused on 
teaching patients various coping skills.  The patient was noted 
to be calm and pleasant in the milieu. There were no behavioral 
concerns. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:

Social work and attending psychiatrist spoke with the patient's 
mother ___ (___). The importance of the patient 
following up with outpatient providers was expressed, and the 
mother was receptive and stated that she will help the patient 
look into this. 

Social work also spoke with patient's advisor at ___, ___. 
___ came in to meet with the patient to discuss whether or 
not he should finish his summer class or take some time off. 
Afterwards, the patient reported that he decided to take the 
summer off. 

On the discharge day, Mr. ___ reported: "I am fine". He denied any 
complains. Reported that his mood is "OK". He usually slept well 
during the night in the hospital. However, he had interrupted 
sleep during the last night. Mr. ___ believes he had problem with 
sleep ___ being excited about leaving the hospital. He clearly 
denied any physical complains. He denied sx's of psychosis. 
Denied S/H/I. He shared about positive plans for future. He 
considers going to ___ during the summer vacation. His affect 
was friendly, appropriate to topics of conversation.

#) Guardianship (if applicable): N/A

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself based on SI. His static risk 
factors noted at that time included age, male gender, family 
history of depression, and single status. His modifiable risk 
factors included SI, acute psychosocial stressors (academic 
probation), lack of outpatient treators, and active substance 
abuse. During hospitalization, he reported improved mood, denied 
SI, reported motivation to abstain from marijuana use, and was 
set up with outpatient providers. He was discharged with many 
protective factors, including no SI, no access to lethal 
weapons, presence of outpatient providers, good social support, 
and future orientation with plans to return home to ___ to his 
family for the summer. Overall, based on the totality of our 
assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others. 

Our Prognosis of this patient is fair

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Nicotine Patch 21 mg TD DAILY 
RX *nicotine 21 mg/24 hour 1 patch Daily Disp #*28 Patch 
Refills:*0 
2.  Sertraline 25 mg PO DAILY 
RX *sertraline 25 mg 1 tablet(s) by mouth Daily Disp #*15 Tablet 
Refills:*1 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cannabis use disorder
Unspecified anxiety disorder
r/o ADHD

 
Discharge Condition:
Vitals: T 97.6 BP 95/63 HR 63 RR 16 O2 100
 *Appearance: young male in NAD, fair hygiene, wearing casual 
street clothes
  Behavior: calm, cooperative, pleasant 
  *Mood and Affect: 'ok' / euthymic
  *Thought process: logical, linear, goal oriented, no loosening
of associations. 
  *Thought Content: denies SI/HI, does not report AVH
  *Judgment and Insight: fair/fair

 
Discharge Instructions:
You were hospitalized at ___ for depression, anxiety, and 
cannabis use disorder.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___